US07517873B2
To a solution of 46.72 g (0.166 mole) of (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one in 1000 mL of dimethylformamide was added 81.32 g (0.25 mole) of cesium carbonate, followed by 70.88 g (0.499 mole) of methyl iodide. After stirring four hours, the mixture filtered and then concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed four times with water, once with brine and dried over anhydrous sodium sulfate. The mixture was filtered and then concentrated under reduced pressure to give 45 g of (rac)-2-chloro-9-cyclopentyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-1). This material was used subsequent steps without further purification.

reactant | (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.166 mole, 46.72 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCCC2)N1 | C13H17ClN4O
reactant | cesium carbonate | 0.25 mole, 81.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.499 mole, 70.88 g | CI | CH3I
solvent | dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | (rac)-2-chloro-9-cyclopentyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 45 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCC2)N1 | C14H19ClN4O
